US04789396
0.6 Gram of 2-butyryl-5-[2-(5-trifluoromethyl-2-pyridylthio)ethyl]cyclohexane-1,3-dione was dissolved in a mixed solvent of 10 ml of ethanol and 1 ml of water, and 0.2 g of ethoxyamine hydrochloride and 0.07 g of sodium hydroxide were added to the resulting solution which was then stirred at room temperature for 2.5 hours. The reaction solution was poured into water, weakly acidified and extracted with ethyl acetate. After removing ethyl acetate, the residue was purified by thin layer chromatography (eluent, hexane:ethyl acetate=5:1) to obtain 0.45 g of 2-(1-ethoxyaminobutylidene)-5-[2-(5-trifluoromethyl-2-pyridylthio)ethyl]cyclohexane-1,3-dione.

reactant | 2-butyryl-5-[2-(5-trifluoromethyl-2-pyridylthio)ethyl]cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)CCSC1=NC=C(C=C1)C(F)(F)F)=O | C18H20F3NO3S
reactant | ethoxyamine hydrochloride | 0.2 g | Cl.C(C)ON
reactant | sodium hydroxide | 0.07 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 2-(1-ethoxyaminobutylidene)-5-[2-(5-trifluoromethyl-2-pyridylthio)ethyl]cyclohexane-1,3-dione | 0.45 g | C(C)ONC(CCC)=C1C(CC(CC1=O)CCSC1=NC=C(C=C1)C(F)(F)F)=O | C20H25F3N2O3S
